US05844020
Furfuryl amine (19.9 grams) and 3,6,9-trioxadecanedioic acid (obtained from Hoechst Celanese Company, 22.6 grams) were added to xylene (130 milliliters) in a 500 milliliter flask fitted with condenser, Dean Stark water removal trap, overhead stirrer and oil bath heated to about 180° C. The mixture was stirred under reflux for 2.3 hours, during which time 3.45 milliliters of water were collected in the Dean Stark trap (94 percent). The mixture was cooled to room temperature with stirring, and the solvent removed at reduced pressure on a rotary evaporator to yield 3,6,9-trioxadecane difurfurylamide as a slightly brownish viscous oil (38.7 grams; 87 percent yield). Infrared spectroscopy verified the absence of acid carboxyl groups from the starting material.

reactant | Furfuryl amine | 19.9 grams | C(C1=CC=CO1)N | C5H7NO
reactant | 3,6,9-trioxadecanedioic acid | 22.6 grams | C(COCCOCCOC(=O)O)(=O)O | C7H12O7
reactant | xylene | 130 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | 3,6,9-trioxadecane difurfurylamide | 87 percent yield | C(C1=CC=CO1)[N-]CC1=CC=CO1.CCOCCOCCOC | InChI=1S/C10H10NO2.C7H16O3/c1-3-9(12-5-1)7-11-8-10-4-2-6-13-10;1-3-9-6-7-10-5-4-8-2/h1-6H,7-8H2;3-7H2,1-2H3/q-1;
